US04680301
A solution of 171 g of N-t-butylthiocarbonyl-2,5-dichloro-4-nitroaniline, described in Example 1, and 605 ml of N-methylpiperazine in 1700 ml of dimethylsulphoxide is heated at 140° for 8 hours, cooled and poured into water. The solid is filtered, washed with water and cold isopropanol to yield 2-tert-butyl-5-[4-methylpiperazin-1-yl]-6-nitrobenzothiazole, melting at 132°-135°.

reactant | N-t-butylthiocarbonyl-2,5-dichloro-4-nitroaniline | 171 g | C(C)(C)(C)C(=S)NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])Cl | C11H12Cl2N2O2S
reactant | N-methylpiperazine | 605 ml | CN1CCNCC1 | C5H12N2
reactant | water | O | H2O
solvent | dimethylsulphoxide | 1700 ml | CS(=O)C | C2H6OS
product | 2-tert-butyl-5-[4-methylpiperazin-1-yl]-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CCN(CC2)C | C16H22N4O2S
